US06586442B2
diethyl 2-[[(phenylmethoxy)carbonyl]amino]-2-propynylpropanedioate
A solution of sodium ethylate previously prepared from 500 mg of sodium in 20 ml of ethanol is added to 6 g of diethyl 2-[[(phenylmethoxy)carbonyl]amino]-propanedioate (prepared according to Bladon. C. M. J.Chem. Soc. Perkin. Trans I 9, 1151-1158 (1990) in 30 ml of ethanol then, after 30 minutes, 3 g of propargyl bromide at 80% in toluene is added and the reaction mixture is heated under reflux for 1 hour. The reaction mixture is then brought back to ambient temperature followed by evaporation under reduced pressure, taking up in dichloromethane, washing and drying. After evaporation under reduced pressure 6 g of the expected product is obtained which is purified by chromatography, eluting with a Cyclohexane/Ethyl acetate mixture 85/15. 2.82 g of purified product is obtained.

reactant | sodium ethylate | CC[O-].[Na+]
reactant | sodium | 500 mg | [Na] | Na
reactant | diethyl 2-[[(phenylmethoxy)carbonyl]amino]-propanedioate | 6 g | C1(=CC=CC=C1)COC(=O)NC(C(=O)OCC)C(=O)OCC | C15H19NO6
reactant | propargyl bromide | 3 g | C(C#C)Br | C3H3Br
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | diethyl 2-[[(phenylmethoxy)carbonyl]amino]-2-propynylpropanedioate | 2.82 g | C1(=CC=CC=C1)COC(=O)NC(C(=O)OCC)(C(=O)OCC)C#CC | C18H21NO6
